US05102877
To a suspension of sodium hydride (60% in oil, 0.75 g) in tetrahydrofuran (50 ml) was added a solution of 2-[2-(N-benzyl-N-chloroacetylamino)-1-hydroxyethyl]-2-methyl-1,3-dioxolane (5.35 g) in tetrahydrofuran (15 ml) under ice-cooling. The mixture was heated under reflux for 4 hours and poured into a mixture of ice-water (100 ml) and ethyl acetate (150 ml). The organic layer was separated, dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (50 g) and eluted with a mixture of hexane and ethyl acetate (7:3, V/V) to give 4-benzyl-2-(2-methyl-1,3-dioxolan-2-yl)-5-oxomorpholine (4.65 g) as a syrup.

reactant | sodium hydride | 0.75 g | [H-].[Na+]
reactant | 2-[2-(N-benzyl-N-chloroacetylamino)-1-hydroxyethyl]-2-methyl-1,3-dioxolane | 5.35 g | C(C1=CC=CC=C1)N(C(CCl)=O)CC(O)C1(OCCO1)C | C15H20ClNO4
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-benzyl-2-(2-methyl-1,3-dioxolan-2-yl)-5-oxomorpholine | 4.65 g | C(C1=CC=CC=C1)N1CC(OCC1=O)C1(OCCO1)C | C15H19NO4
